### PR TITLE
[Dijkstra] Computational instance for Certs

### PR DESCRIPTION
**Pull request by carlostome**
# Description

In addition this PR amends some preconditions that were not correct.

# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [ ] Any semantic changes to the specifications are documented in `CHANGELOG.md`
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [x] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 1]
```diff
@@ -0,0 +1,209 @@
...
+          × (md ≡ nothing ⊎ md ≡ just d)
+          ¿ of λ where
+            (yes q) → success (-, DELEG-dereg q)
+            (no ¬q) → failure (genErrors ¬q)
+      (no ¬p) → failure (genErrors ¬p)
+    _ → failure "Unexpected certificate in DELEG"
+
+  Computational-DELEG .completeness de ds (delegate c mv mc d)
+    s' (DELEG-delegate p) rewrite dec-yes (¿ (c ∉ dom (DState.rewards ds) → d ≡ DelegEnv.pparams de .PParams.keyDeposit)
+                                           × (c ∈ dom (DState.rewards ds) → d ≡ 0)
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]:
```suggestion
    s' (DELEG-delegate p) rewrite dec-yes (¿ (c ∉ dom (RewardsOf ds) → d ≡ DelegEnv.pparams de .PParams.keyDeposit)
                                           × (c ∈ dom (RewardsOf ds) → d ≡ 0)
```

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 2]
```diff
@@ -0,0 +1,209 @@
...
+         ⊎ (d ≡ 0 × c ∈ dom dreps) ¿ of λ where
+      (yes p) → success (-, GOVCERT-regdrep p)
+      (no ¬p) → failure (genErrors ¬p)
+  Computational-GOVCERT .computeProof ce gs (deregdrep c d) =
+    case ¿ c ∈ dom (GState.dreps gs) × (c , d) ∈  (GState.deposits gs) ¿ of λ where
+      (yes p) → success (-, GOVCERT-deregdrep p)
+      (no ¬p)  → failure (genErrors ¬p)
+  Computational-GOVCERT .computeProof ce gs (ccreghot c _) =
+    let open CertEnv ce; open GState gs in
+    case ¿ ((c , nothing) ∉ ccHotKeys ˢ) × c ∈ coldCreds ¿ of λ where
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]:
```suggestion
    case ¿ ((c , nothing) ∉ CCHotKeysOf gs ˢ) × c ∈ CertEnv.coldCreds ce ¿ of λ where
```

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 3]
```diff
@@ -0,0 +1,209 @@
...
+    rewrite dec-yes
+      ¿ (let open CertEnv ce; open PParams pp in
+        (d ≡ drepDeposit × c ∉ dom (GState.dreps gs)) ⊎ (d ≡ 0 × c ∈ dom (GState.dreps gs)))
+      ¿ p .proj₂ = refl
+  Computational-GOVCERT .completeness _ gs
+    (deregdrep c d) _ (GOVCERT-deregdrep p)
+    rewrite dec-yes ¿ c ∈ dom (GState.dreps gs) × (c , d) ∈ (GState.deposits gs) ¿ p .proj₂ = refl
+  Computational-GOVCERT .completeness ce gs
+    (ccreghot c _) _ (GOVCERT-ccreghot p)
+    rewrite dec-yes (¿ (((c , nothing) ∉ (GState.ccHotKeys gs) ˢ) × c ∈ CertEnv.coldCreds ce) ¿) p .proj₂ = refl
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]:
```suggestion
  Computational-GOVCERT .completeness _ gs (deregdrep c d) _ (GOVCERT-deregdrep p)
    rewrite dec-yes ¿ c ∈ dom (DRepsOf gs) × (c , d) ∈ (DepositsOf gs) ¿ p .proj₂ = refl
  Computational-GOVCERT .completeness ce gs (ccreghot c _) _ (GOVCERT-ccreghot p)
    rewrite dec-yes ¿ (c , nothing) ∉ CCHotKeysOf gs ˢ × c ∈ CertEnv.coldCreds ce ¿ p .proj₂ = refl
```

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 4]
```diff
@@ -0,0 +1,209 @@
...
+  Computational-CERT .completeness ce cs
+    dCert@(delegate c mv mc d) cs' (CERT-deleg h)
+    with computeProof ⟦ CertEnv.pp ce , PState.pools (CertState.pState cs) , dom (GState.dreps (CertState.gState cs)) ⟧
+                      (CertState.dState cs) dCert
+         | completeness _ _ _ _ h
+  ... | success _ | refl = refl
+  Computational-CERT .completeness ce cs
+    dCert@(dereg c _) cs' (CERT-deleg h)
+    with computeProof ⟦ CertEnv.pp ce , PState.pools (CertState.pState cs) , dom (GState.dreps (CertState.gState cs)) ⟧
+                      (CertState.dState cs) dCert
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]:
```suggestion
    with computeProof ⟦ PParamsOf ce , PoolsOf cs , dom (DRepsOf cs) ⟧ (DStateOf cs) dCert
```
Similar suggestions for the lines below.

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 5]
```diff
@@ -0,0 +1,209 @@
...
+
+  Computational-POST-CERT : Computational _⊢_⇀⦇_,POST-CERT⦈_ String
+  Computational-POST-CERT .computeProof ce cs tt = success ( cs' , CERT-post)
+    where
+      dreps : DReps
+      dreps = GState.dreps (CertState.gState cs)
+      validVoteDelegs : VoteDelegs
+      validVoteDelegs = (DState.voteDelegs (CertState.dState cs)) ∣^ ( mapˢ vDelegCredential (dom dreps) ∪ fromList (vDelegNoConfidence ∷ vDelegAbstain ∷ []) )
+      cs' : CertState
+      cs' = ⟦ ⟦ validVoteDelegs , _ , _ ⟧ , CertState.pState cs , CertState.gState cs ⟧
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]:
```suggestion
      validVoteDelegs : VoteDelegs
      validVoteDelegs = VoteDelegsOf cs ∣^ (mapˢ vDelegCredential (dom (DRepsOf cs)) ∪ fromList (vDelegNoConfidence ∷ vDelegAbstain ∷ []) )
      cs' : CertState
      cs' = ⟦ ⟦ validVoteDelegs , _ , _ ⟧ , PStateOf cs , GStateOf cs ⟧
```
